US04616086
Ethyl 4-{2-[1-(2-phenoxypropyl)-piperazin-4-yl]-ethyl}-benzoate
A mixture of 8.2 g. (37 mmole) 1-(2-phenoxypropyl)-piperazine, 9.57 g. (37 mmole) ethyl 4-(2-bromoethyl)-benzoate, 3.77 g. (37 mmole) triethylamine and 100 ml. anhydrous tetrahydrofuran is heated for 36 hours at reflux temperature and then evaporated. The residue is taken up in diethyl ether and the hydrochloride precipitated from this solution with hydrogen chloride-containing diethyl ether to give 14.7 g. (84% of theory) of the desired compound as a hydrochloride; m.p. 232° C.

reactant | 1-(2-phenoxypropyl)-piperazine | 37 mmole | O(C1=CC=CC=C1)C(CN1CCNCC1)C | C13H20N2O
reactant | ethyl 4-(2-bromoethyl)-benzoate | 37 mmole | BrCCC1=CC=C(C(=O)OCC)C=C1 | C11H13BrO2
reactant | triethylamine | 37 mmole | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Ethyl 4-{2-[1-(2-phenoxypropyl)-piperazin-4-yl]-ethyl}-benzoate | O(C1=CC=CC=C1)C(CN1CCN(CC1)CCC1=CC=C(C(=O)OCC)C=C1)C | C24H32N2O3
